US06100264
A mixture of 0.6 g of ethyl 9-(diethoxyphosphorylmethyl)-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate, 30 ml of hydrobromic acid at 30% in acetic acid and 10 ml of distilled water is heated at reflux for 2 hours. The reaction mixture is filtered and the solid is washed with 3×20 ml of distilled water, and then with 2×10 ml of acetone and finally dried under vacuum (1 mm Hg, 0.13 kPa) at close to 40° C. 0.3 g of 4-oxo-9-phosphonomethyl-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid is obtained in the form of a beige solid melting above 260° C. [Analysis: C15H12N3O6P, 0.09 HBr, 0.38 HCl, 1.54 H2O, % calculated C: 49.87, H: 3.3, N: 11.63, O: 26.57, P: 8.57, % found C: 49.8, H: 3.4, N: 11.1].

reactant | ethyl 9-(diethoxyphosphorylmethyl)-4-oxo-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 0.6 g | C(C)OP(=O)(OCC)CC=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=CC1 | C21H24N3O6P
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | water | 10 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-oxo-9-phosphonomethyl-5,10-dihydroimidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid | 0.3 g | O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CP(=O)(O)O)C=C(N2)C(=O)O | C15H12N3O6P
